US07576082B2
A suspension of 6-chlorooxindole (0.71 g, 4.24 mmol) (Cresent Chem.), (3-oxo-butyl)-propyl-carbamic acid tert-butyl ester (1 g, 4.69 mmol) (Tyger Sci.), and pyrrolidine (0.1 g) (Aldrich) in 2-propanol (15 mL) was heated at 90° C. for 2 days. The mixture was allowed to cool to room temperature. The solvent was removed and the residue was purified by chromatography to give 4-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-azepane-1-carboxylic acid tert-butyl ester as a brown solid. (Yield: 1.36 g, 88%).

reactant | 6-chlorooxindole | 4.24 mmol, 0.71 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | (3-oxo-butyl)-propyl-carbamic acid tert-butyl ester | 4.69 mmol, 1 g | C(C)(C)(C)OC(N(CCC)CCC(C)=O)=O | C12H23NO3
reactant | pyrrolidine | 0.1 g | N1CCCC1 | C4H9N
solvent | 2-propanol | 15 mL | CC(C)O | C3H8O
product | 4-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidene)-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CCC1)=C1C(NC2=CC(=CC=C12)Cl)=O | C19H23ClN2O3
